US06340759B1
(283-3) 2-Bromomethyl-3-cyanothiophene
2-Methyl-3-cyanothiophene (2.108 g) was dissolved in benzene (30 ml), followed by the addition of N-bromosuccinimide (4.8 g) and 70% benzoyl peroxide (202 mg), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled, and the resulting precipitates were filtered off. Then the filtrate was diluted with ethyl acetate, washed with an aqueous solution of saturated sodium bicarbonate, dried (over MgSO4) and then evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (2.746 g, yield; 82%).

reactant | 2-Methyl-3-cyanothiophene | 2.108 g | CC=1SC=CC1C#N | C6H5NS
reactant | N-bromosuccinimide | 4.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
catalyst | benzoyl peroxide | 202 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-3-cyanothiophene | 2.746 g, yield; 82% | BrCC=1SC=CC1C#N | C6H4BrNS
